Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iodine based IV dye
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain/Nausea
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with recent ED visit on ___ for mild diverticulitis 
treated with Cipro/Flagyl who later presented to her PCP ___ 
___ with resolving symptoms requesting further cipro/flagyl 
due to an upcoming cruise presents to the ED with nausea, 
vomiting and abdominal pain.  Pt reports finishing antibiotic 
regimen 4 days ago. 3 days ago, the patient experienced return 
of nausea, abdominal pain and diarrhea. Patient reports 
continuation of non-bloody diarrhea with no melena or 
hematochezia. 

Patient denies fevers but +chills. +dizziness. +Poor PO intake.
No chest pain, sob, dysuria.

 
Past Medical History:
OSTEOPOROSIS 
BASAL CELL CARCINOMA 
MIGRAINE HEADACHES 
ASTHMA 
COLD INDUCED URTICARIA 
MITRAL VALVE PROLAPSE 
COLON POLYP 
CERVICAL SPONDYLOSIS 
LUMBAR SPONDYLOSIS 
CESAREAN SECTION ___ 
BREAST BIOPSY 
BREAST REDUCTION 
ROTATOR CUFF REPAIR 
 
Social History:
___
Family History:
Mother: ___ DISEASE, DEPRESSION, ALZHEIMER'S DISEASE  
Father: STROKE, PROSTATE CANCER 
Aunt: BREAST CANCER 
Uncle: MYOCARDIAL INFARCTION 
Grandmother: ?LEUKEMIA/LYMPHOMA
 
Physical Exam:
ADMISISON
VITALS: T 98.1 BP 100/64 HR 60 R 12 SpO2 97 ra
GEN: NAD
HEENT: anicteric sclerae
___: RRR, no MRG
RESP: CTAB, no increased WOB
ABD: diffusely tender, hyperactive bowel sounds. No 
rebound/guarding. Murhpy's sign negative. No pain at ___ 
___.
EXT: No edema

DISCHARGE

 
Pertinent Results:
ADMISSION
___ 10:50AM BLOOD WBC-4.8 RBC-4.44 Hgb-13.5 Hct-41.2 MCV-93 
MCH-30.4 MCHC-32.8 RDW-12.2 RDWSD-41.5 Plt ___
___ 10:50AM BLOOD Neuts-53.2 ___ Monos-6.5 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-2.55# AbsLymp-1.81 AbsMono-0.31 
AbsEos-0.07 AbsBaso-0.04
___ 10:50AM BLOOD ___ PTT-29.6 ___
___ 10:50AM BLOOD Glucose-105* UreaN-13 Creat-0.7 Na-139 
K-4.1 Cl-104 HCO3-24 AnGap-15
___ 10:50AM BLOOD ALT-29 AST-22 AlkPhos-63 TotBili-0.5
___ 10:50AM BLOOD Lipase-59
___ 10:50AM BLOOD Albumin-4.8 Mg-2.2
___ 11:08AM BLOOD Lactate-1.4

PERTINENT
___ 11:08AM BLOOD Lactate-1.4
___ 10:50AM BLOOD Lipase-59
___ 10:50AM BLOOD ALT-29 AST-22 AlkPhos-63 TotBili-0.5
___ 06:19AM BLOOD LD(LDH)-140

DISCHARGE

STUDIES
___ CT ABD W/O CON
IMPRESSION:  
No acute intra-abdominal or pelvic process.  Diverticulosis 
without 
diverticulitis. 

MICROBIOLOGY
___ 4:15 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative).

 
Brief Hospital Course:
___ with recent visit to the ED for mild diverticulitis 
diagnosed on CT scan s/p course of cipro/flagyl (finished 4 days 
from day of admission) presents to the ED with return of 
abdominal pain, nausea and vomiting.

#Abdominal Pain/Nausea: Pt has recent visit to ED for mild 
diverticulitis s/p cipro/flagyl. CT abd/pelvis showed no acute 
process. This, in the setting of stable vital signs, lack of 
fever and leukocytosis make a abscess or other infectious 
etiology less likely. UA is also not consistent with infection. 
C. diff was negative LFTs negative for hepatic/biliary 
pathology. Possible etiologies include irritable bowel after her 
bout of diverticulosis or an unrelated gastroenteritis. 
Dizziness in setting of poor PO is suggestive of dehydration 
though chemistry, renal function and lactate are normal at this 
time suggesting adequate perfusion.
-F/u Stool Cx (though suspect these to be negative)
-F/u Blood Cx
-Loperamide if c. diff negative

#Oral Thrush: Patient has white plaques on tongue. No LAD, 
however given the patients progressive symptoms, and family h/o 
grandmother with ?lymphoma/leukemia HIV and LDH should be 
checked, respectively.
-Nystatin
-F/U HIV
-F/U LDH

#Migraines: Pt has h/o mild migraines managed with ASA. 
Asymptomatic at this time.
-cont. ASA
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Irritable Bowel Syndrome

Secondary Diagnosis
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your 
hospitalization. You were admitted for abdominal pain and nausea 
which we treated with medications. A CT of your abdomen, in 
addition to other lab tests looking for ischemia, infection, or 
inflammation (rheumatologic) did not reveal a reason.  We do 
have a test pending for celiac sprue. Given the reassuring 
workup, we believe the discomfort you were having was due to 
irritable bowel syndrome which was brought on from your recent 
diverticulitis and a disrupted bowel bacterial flora. We treated 
you with medications for spasm, IBS, and bloating/gas for 
symptom control.

Please call to schedule a follow up appointment with your PCP 
within one week.

We wish you the best!
Your ___ care team
 
Followup Instructions:
___